US07846949B2
To a solution of N-(3-bromophenyl)-2,6-difluorobenzamide in 200 mL of DMF at room temperature and under nitrogen atmosphere, NaH 60% in oil dispersion (104.7 mmol) is slowly added and the reaction mixture is stirred for 30 minutes. Tert-butylbromoacetate (104.7 mmol) is added and the reaction stirred at room temperature. After 12 hours the reaction is complete by TLC (hexanes:ethyl acetate=8:2) and analytical LCMS (20 to 100% CH3CN). Ethyl acetate and water are added to the reaction mixture and the phases are separated. The organic phase is dried on sodium sulfate, filtered and the solvent is evaporated. The crude is purified by automated column chromatography (gradient of hexanes and ethyl acetate) to give tert-butyl 2-(N-(3-bromophenyl)-2,6-difluorobenzamido)acetate: 1H NMR (400 MHz, CDCl3) δ 7.36 (bs, 1H), 7.20 (m, 1H), 7.07 (m, 2H), 6.96 (t, J=8 Hz, 1H), 6.62 (td, J=8 Hz, J2=1.2 Hz), 4.32 (s, 2H), 1.39 (s, 9H); MS: (ES+) 448.0 (M+23)+.

reactant | N-(3-bromophenyl)-2,6-difluorobenzamide | BrC=1C=C(C=CC1)NC(C1=C(C=CC=C1F)F)=O | C13H8BrF2NO
reactant | NaH | [H-].[Na+]
reactant | Tert-butylbromoacetate | 104.7 mmol | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH3CN | CC#N | C2H3N
product | tert-butyl 2-(N-(3-bromophenyl)-2,6-difluorobenzamido)acetate | BrC=1C=C(C=CC1)N(C(C1=C(C=CC=C1F)F)=O)CC(=O)OC(C)(C)C | C19H18BrF2NO3
